US07504508B2
N-(4-Chlorophenyl)-2-hydroxy-N-[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide (300 mg, 0.91 mmol, 1 equ.) was dissolved in methylene chloride (3 mL). To this solution was added EDC (464 mg, 2.7 mmol, 3 equ.) and acetic acid (164 mg, 2.7 mmol, 3 equ.) and the reaction mixture was stirred at room temperature for 20 h. Reaction mixture was concentrated and the residue dissolved in ethyl acetate and washed with water, brine, and then dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (methylene chloride/methanol: 99/1 to 98/2 gradient) to afford 2-{(4-chlorophenyl)[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate (240 mg, 84%).

reactant | N-(4-Chlorophenyl)-2-hydroxy-N-[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide | 0.91 mmol, 300 mg | ClC1=CC=C(C=C1)N(C(CO)=O)[C@@H]1C[C@@H](NC2=CC=CC=C12)C | C18H19ClN2O2
reactant | EDC | 2.7 mmol, 464 mg
reactant | acetic acid | 2.7 mmol, 164 mg | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-{(4-chlorophenyl)[(2S,4R)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]amino}-2-oxoethyl acetate | 240 mg, 84% | C(C)(=O)OCC(=O)N([C@@H]1C[C@@H](NC2=CC=CC=C12)C)C1=CC=C(C=C1)Cl | C20H21ClN2O3
